US07326699B2
cis-((R)-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-pyrrolidin-2-yl)-methanol
The title compound is prepared in analogy to Example 116 starting from 0.35 g (0.84 mmol) cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol and 0.328 g (1.69 mmol) p-toluenesulfonyl chloride in 3.5 ml dry pyridine, followed by 0.631 ml (6.33 mmol) D-prolinol (Fluka, Buchs, Switzerland). Analytical HPLC: tR=9.08 min (Grad 1); ES-MS: m/eo=498.2; NMR (DMSO-d6; not all signals reported): 8.07/s (1H), 7.25-7.5/several m's (6H), 7.02/“d” (1H); 6.94/s (1H); 6.89/“d” (1H); 5.4-6.0/b (NH2); 5.13/s (2H); 4.78/m (1H); 4.34/b (OH); 2.22/s (3H).

reactant | cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol | 0.84 mmol, 0.35 g | NC=1C2=C(N=CN1)N(C(=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)C)[C@H]2C[C@H](C2)CO | C25H26N4O2
reactant | p-toluenesulfonyl chloride | 1.69 mmol, 0.328 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | D-prolinol | 6.33 mmol, 0.631 ml | N1[C@@H](CO)CCC1 | C5H11NO
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | cis-((R)-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-pyrrolidin-2-yl)-methanol | NC=1C2=C(N=CN1)N(C(=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)C)[C@H]2C[C@H](C2)CN2[C@H](CCC2)CO | C30H35N5O2
